US07777047B2
1-tert-butyl 2-ethyl 7-[cyclopropyl(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate
To a mixture of 1-tert-butyl 2-ethyl 7-(cyclopropylamino)-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate (1.9 g) and pyridine (3 mL) was added a mixture of 2-pyridylsulfonyl chloride (1.2 g) and pyridine (2 mL) at 0° C., and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate and water. The organic layer was washed with aqueous 10% aqueous citric acid solution, aqueous sodium bicarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and filtered, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give the title compound (1.70 g, yield 67%) as a pale-yellow oil from a fraction eluted with ethyl acetate-hexane (9:1, volume ratio). MS: 562 (MH+).

reactant | 1-tert-butyl 2-ethyl 7-(cyclopropylamino)-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate | 1.9 g | C1(CC1)NC=1C=C(C=C2CC(N(C12)C(=O)OC(C)(C)C)C(=O)OCC)OCCOC | C22H32N2O6
reactant | 2-pyridylsulfonyl chloride | 1.2 g | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 1-tert-butyl 2-ethyl 7-[cyclopropyl(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)indoline-1,2-dicarboxylate | 1.70 g, yield 67% | C1(CC1)N(C=1C=C(C=C2CC(N(C12)C(=O)OC(C)(C)C)C(=O)OCC)OCCOC)S(=O)(=O)C1=NC=CC=C1 | C27H35N3O8S
